US04120969
3,3-Diphenyl-1-isopropyl-4-(4-phenyl-4-propionoxypiperidinylmethyl)-2-pyrrolidinone
Eight grams of 3,3-diphenyl-1-isopropyl-4-(4-phenyl-4-hydroxypiperidinylmethyl)-2-pyrrolidinone was dissolved in benzene, 0.58 g. of 57% sodium hydride was added and after 2 hours stirring at room temperature 1.56 g. of propionic anhydride was added. Partial reaction occurred after 2 hours reaction time. An additional 1.0 g. of 57% sodium hydride and 3.0 g. of propionic anhydride was added and the mixture stirred overnight at room temperature and then refluxed for 48 hours. The cooled mixture was washed with water, the benzene layer dried over sodium sulfate and concentrated. The residue was chromatographed on a magnesium silicate column and the product eluted from the column using benzene and increasing amounts of acetone. The product was isolated and confirmed by its nuclear magnetic resonance spectra.

reactant | 3,3-diphenyl-1-isopropyl-4-(4-phenyl-4-hydroxypiperidinylmethyl)-2-pyrrolidinone | Eight grams | C1(=CC=CC=C1)C1(C(N(CC1CN1CCC(CC1)(O)C1=CC=CC=C1)C(C)C)=O)C1=CC=CC=C1 | C31H36N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,3-Diphenyl-1-isopropyl-4-(4-phenyl-4-propionoxypiperidinylmethyl)-2-pyrrolidinone | C1(=CC=CC=C1)C1(C(N(CC1CN1CCC(CC1)(OC(CC)=O)C1=CC=CC=C1)C(C)C)=O)C1=CC=CC=C1 | C34H40N2O3
